reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1](=[C:2]([C:3]([H:11])([H:12])[H:13])[C:4]([C:5]([H:15])([H:16])[H:17])([C:6]([H:18])([H:19])[H:20])[H:14])([H:7])[H:8].[H:9][H:10]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]([H:15])([H:16])[H:17])([C:6]([H:18])([H:19])[H:20])[H:14])[H:10])([H:7])([H:8])[H:9],79.75934009136921
[C:1]([H:7])([H:8])([H:9])[H:17].[C:4]([C:5]([H:13])([H:14])[H:15])(=[C:6]([H:16])[H:18])[H:12].[O:2]=[C:3]([H:10])[H:11]>>[C:1]([O:2][C:3]([C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],75.5683374224188
[C:1]([C:2]([C:3][C:4]([N:5]([C:6]([H:15])([H:16])[H:17])[H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]1([H:12])[C:4]([H:13])([H:14])[N:5]1[C:6]([H:15])([H:16])[H:17])([H:10])[H:11])([H:7])([H:8])[H:9],14.232735907229902
[O:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[N:4](=[C:5](/[O:6][H:7])[H:13])\[H:12].[O:1]1[C:2]([H:8])([H:9])[C:3]1([H:10])[H:11],82.7265813305068
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5](=[O:6])[H:12])[H:11])[H:7]>>[C:2]1[C:3]([H:9])([H:10])[C@:4]1([C:5](=[O:6])[H:12])[H:11].[O:1]([H:7])[H:8],82.1364791512171
[C:1](=[C:2]([C:4]([C:5](=[O:6])[H:16])([H:14])[H:15])[H:10])([H:8])[H:9].[C:3]([H:7])([H:11])([H:12])[H:13]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5](=[O:6])[H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],94.87865714268469
[O:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]1[C:2]([H:8])([H:9])[C:3]([H:10])([H:11])[N:4]([H:12])[C@:5]1([O:6][H:7])[H:13],45.1800051369987
[C:4]([O:5][H:11])[H:10].[O:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6]>>[O:1]([C@@:2]1([H:7])[C:3]([H:8])([H:9])[C@:4]1([O:5][H:11])[H:10])[H:6],4.6315520430651915
[C:1]([C:2](=[C:4]=[O:5])[H:9])([H:6])([H:7])[H:8].[O:3]([H:10])[H:11]>>[C:1]([C@@:2]([O:3][H:10])([C:4](=[O:5])[H:11])[H:9])([H:6])([H:7])[H:8],74.95653622181314
[C:1]([C:2](=[C:3])[C:4](=[O:5])[C:6]#[C:7][H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]#[C:3][C:4](=[O:5])[C:6]#[C:7][H:11])([H:8])([H:9])[H:10],8.452667476094199
[C:1]([C:2](=[O:3])[N:4]([C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O+:3]=[C-:2][N:4]([C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9],108.128349444905
[C:1]([N+:6]([C:4](=[C:2]([O:3][H:11])[H:10])[O-:5])([H:12])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([O:3][H:11])([C:4](=[O:5])[N:6]([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],64.107748114842
[C:1](=[C:2]([C:3]([C@:4]1([H:13])[C:5]([H:8])=[N:6]1)([H:11])[H:12])[H:10])([H:7])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]#[N:6])[H:13])([H:7])([H:8])[H:9],50.998783728560205
[N:1]1([H:7])[C@@:2]([C:3](=[N+:4]=[N-:5])[H:9])([H:8])[O:6]1>>[N:1]([C:2]([C:3](=[N+:4]=[N-:5])[H:9])=[O:6])([H:7])[H:8],56.812911677563804
[C:1]([C:2]([N:3]=[C:4]=[N:5][H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[C:6]=[N:7][H:13]>>[C:1]([C:2]([N:3](/[C:4](=[N:5]/[H:14])[C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],31.9520733495558
[C:2](=[C:3]([C:6]#[N:7])[H:11])([H:9])[H:10].[O:1]([C:4]#[C:5][H:12])[H:8]>>[O:1]([C:2]([C@@:3]([C:4]#[C:5][H:12])([C:6]#[N:7])[H:11])([H:9])[H:10])[H:8],62.359194850605796
[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:11])[H:12])[C:5]#[N:6])([H:7])([H:8])[H:9].[O:4]([H:10])[H:13],61.7923976963956
[N:1]([C-:2]=[O+:3][C:4](=[O:5])[H:9])([C:6]#[N:7])[H:8]>>[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6]#[N:7])\[H:8],45.9581772884287
[C:1]([C:2]([O:3]/[C:4](=[N:5]/[C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O+:3]=[C-:4][N:5]([C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],80.28086390994319
[O:1]=[C:2]=[C:3]=[C:4]=[C:5]=[N:6][H:7]>>[O:1]=[C:2]([C:3]#[C:4][C:5]#[N:6])[H:7],57.49959376252501
[C:1]([O+:3]=[C-:2][C:4]([O:5][H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2](=[O:3])[C:4]([O:5][H:11])([H:9])[H:10])([H:6])([H:7])[H:8],47.37902028847232
[C:1](/[C:2](=[C:3](\[O:4][C:5]#[C:6][H:12])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[C:6][H:12])[H:10])([H:7])([H:8])[H:9],66.9431583058368
[C:1]([C:2]([C:3]#[C:4][C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:6][C:5](=[C:4]=[C:3]=[C:2]([H:10])[H:11])[H:12])([H:7])([H:8])[H:9],110.115363289628
[C:1]([C:2](=[C:3]([H:11])[H:12])[H:10])([H:6])([H:7])[H:8].[O:4]([C:5]([H:13])([H:14])[H:15])[H:9]>>[C:1]([C:2]([C:3]([O:4][C:5]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],55.76187919722081
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([O:3][H:11])(/[C:4](=[C:5](\[O:6][H:16])[H:14])[H:13])[H:10])([H:7])([H:8])[H:9].[H:12][H:15],107.03345687780701
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:6](=[C:5]=[C:4]([H:14])[H:15])[H:16])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]#[C:6][H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],108.70706825513099
